US08865726B2
To a sealed tube was added (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-ethyloxazolidin-2-one (0.100 g, 0.321 mmol), 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazole (0.168 g, 0.418 mmol) and 2.0 M Na2CO3 (0.482 mL, 0.964 mmol) in dioxane (1.6 mL). The mixture was degassed by bubbling N2 through the solution. Pd2 dba3 (0.0147 g, 0.0161 mmol), and dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (0.0153 g, 0.0321 mmol) were added and the vessel was sealed under a N2 atmosphere. The mixture was heated at 90° C. for 18 hours. The reaction mixture was cooled to ambient temperature, filtered through glass fiber filter paper, concentrated and purified on silica gel (1-55% EtOAc in DCM) to provide (S)-4-ethyl-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one (0.076 g, 47% yield) as a yellow gum.

reactant | (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-ethyloxazolidin-2-one | 0.321 mmol, 0.100 g | BrC=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2CC)=O | C11H11BrN4O2
reactant | 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazole | 0.418 mmol, 0.168 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1=NN(C=N1)COCC[Si](C)(C)C)C | C20H32BN3O3Si
reactant | Na2CO3 | 0.964 mmol, 2.0 M, 0.482 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine | 0.0321 mmol, 0.0153 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | dioxane | 1.6 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | 0.0161 mmol, 0.0147 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)-4-ethyl-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one | 0.076 g, 47% yield | C(C)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C2=NN(C=N2)COCC[Si](C)(C)C | C25H31N7O3Si
